US04200641
A mixture of 20.8 parts of 2-mercapto-1H-benzimidazole-1-propanol, 15.62 parts of iodomethane and 120 parts of methanol is stirred overnight at room temperature. The reaction mixture is evaporated and the residue is dissolved in 500 parts of water. The solution is filtered over hyflo and the filtrate is alkalized with solid potassium hydroxide. The oily product is extracted with trichloromethane. The extract is dried, filtered and evaporated, yielding 2-(methylthio)-1H-benzimidazole-1-propanol as a residue.

reactant | 2-mercapto-1H-benzimidazole-1-propanol | SC1=NC2=C(N1CCCO)C=CC=C2 | C10H12N2OS
reactant | iodomethane | IC | CH3I
solvent | methanol | CO | CH4O
product | 2-(methylthio)-1H-benzimidazole-1-propanol | CSC1=NC2=C(N1CCCO)C=CC=C2 | C11H14N2OS
